US05281593
ii) 7-Benzyloxyindole-4-carboxaldehyde
Solid pyridinium dichromate (5.4 g., 15.5 mmol) was added in portions over 8 hours to a stirred solution of 7-benzyloxyindole-4-methanol (1.17 g, 4.6 mmol) in dichloromethane (30 ml). The dark mixture was stirred for a further 2 hours, filtered through a bed of silica and evaporated.

reactant | pyridinium dichromate | 15.5 mmol, 5.4 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 7-benzyloxyindole-4-methanol | 4.6 mmol, 1.17 g | C(C1=CC=CC=C1)OC1=CC=C(C=2C=CNC12)CO | C16H15NO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 7-Benzyloxyindole-4-carboxaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=2C=CNC12)C=O | C16H13NO2
